US07741351B2
Intermediate 7: (3-bromophenyl)methyl methyl sulfone
A solution of 3-bromobenzyl bromide (5.0 g, 20 mmol) in dry dimethylformamide (50 ml) at room temperature under an atmosphere of argon was treated portionwise with sodium methanesulfinate (2.0 g, 20 mmol) with stirring. The mixture was stirred at room temperature for 16 h, and then at 50° C. for 0.5 h. The reaction mix was allowed to cool to room temperature and then partitioned between ethyl acetate and water. The organic layer was separated and dried over sodium sulfate and the solvent removed under reduced pressure to give an oil which was purified by column chromatography on a 50 g isolute silica sep-pak column eluting from 0-100% ethyl acetate in petroleum ether to give the title compound as an off-white solid (3.34 g, 67%).

reactant | 3-bromobenzyl bromide | 20 mmol, 5.0 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | sodium methanesulfinate | 20 mmol, 2.0 g | CS(=O)[O-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (3-bromophenyl)methyl methyl sulfone | 3.34 g, 67% | CS(=O)(=O)CC1=CC(=CC=C1)Br | C8H9BrO2S
